US07666871B2
5-{4-[5-Methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazol-2-yl]-phenyl}-pyrimidine
The title compound is prepared in a manner substantially analogous to Example 45 starting from 5-Pyrimidine boronic acid and 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole. MS (m/e): 335.2 (M+1)

reactant | 5-Pyrimidine boronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C16H19BrN2O
product | 5-{4-[5-Methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazol-2-yl]-phenyl}-pyrimidine | CC1=C(N=C(O1)C1=CC=C(C=C1)C=1C=NC=NC1)CCN1CCCC1 | C20H22N4O
